US08258323B2
(R)-6-fluoro-3,4-dihydro-2-((R)-2,2-dimethyl-1,3-dioxolan-4-yl)-2H-chromene (2.92 g, 11.6 mmol) was dissolved in acetic acid (24 ml) and demi water (9 ml). The reaction mixture was stirred vigorously and heated to 65° C. After 3 h at 65° C. the reaction mixture was cooled to 25° C. The solution was then concentrated in vacuo to obtain a vetrous oil. Chromatographic separation on silica of the crude, using a mixture of heptane:ethyl acetate 1:1 as eluent, furnished 0.64 g of (R)-1-((R)-6-fluoro-3,4-dihydro-2H-chromen-2-yl)ethane-1,2-diol as a white solid (26% yield).

reactant | (R)-6-fluoro-3,4-dihydro-2-((R)-2,2-dimethyl-1,3-dioxolan-4-yl)-2H-chromene | 11.6 mmol, 2.92 g | FC=1C=C2CC[C@@H](OC2=CC1)[C@@H]1OC(OC1)(C)C | C14H17FO3
reactant | water | 9 ml | O | H2O
solvent | acetic acid | 24 ml | C(C)(=O)O | C2H4O2
product | (R)-1-((R)-6-fluoro-3,4-dihydro-2H-chromen-2-yl)ethane-1,2-diol | 0.64 g, 26% yield | FC=1C=C2CC[C@@H](OC2=CC1)[C@@H](CO)O | C11H13FO3
